US08193349B2
To a solution of trans-(3-benzyloxy-cyclobutyl)-acetic acid methyl ester (110 mg, 0.47 mmol) in THF (1 mL) is added 1.09M LDA in THF and hexane (1.51 mL, 1.65 mmol) at −78° C. under nitrogen, and stirred at −78° C. for 30 min. To the mixture, iodomethane (232 ul, 3.76 mmol) is added, and the mixture is stirred at −78° C. for 30 min. The temperature is slowly warmed to room temperature for 3 hours. To the mixture, H2O is added and extracted with AcOEt. The organic layer is dried over MgSO4 and concentrated under reduced pressure to give trans-2-(3-benzyloxy-cyclobutyl)-propionic acid methyl ester (94 mg, 80%); ESI-MS m/z 249 [M+1]+, retention time 2.07 min (condition A).

reactant | trans-(3-benzyloxy-cyclobutyl)-acetic acid methyl ester | 0.47 mmol, 110 mg | COC(C[C@@H]1C[C@H](C1)OCC1=CC=CC=C1)=O | C14H18O3
reactant | LDA | 1.09M | [Li+].CC(C)[N-]C(C)C
reactant | hexane | 1.65 mmol, 1.51 mL | CCCCCC | C6H14
reactant | iodomethane | 3.76 mmol, 232 ul | IC | CH3I
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | trans-2-(3-benzyloxy-cyclobutyl)-propionic acid methyl ester | 94 mg, 80% | COC(C(C)[C@@H]1C[C@H](C1)OCC1=CC=CC=C1)=O | C15H20O3
